US04804662
N-[2-[Bis-(phenylmethyl)amino]ethyl]-4-(1H-imidazol-1-yl)-benzamide hemihydrate
Heat 4.23 g (21.0 mmol) of 4-(1H-imidazol-1-yl)benzoic acid methyl ester and 5.00 g (21.0 mmol) of N,N-dibenzylethylenediamine in 10 mL of xylenes at reflux for about 48 hr. Cool the solution to room temperature. Filter to obtain crystals of the title compound.

reactant | 4-(1H-imidazol-1-yl)benzoic acid methyl ester | 21.0 mmol, 4.23 g | COC(C1=CC=C(C=C1)N1C=NC=C1)=O | C11H10N2O2
reactant | N,N-dibenzylethylenediamine | 21.0 mmol, 5.00 g | C(C1=CC=CC=C1)N(CCN)CC1=CC=CC=C1 | C16H20N2
product | N-[2-[Bis-(phenylmethyl)amino]ethyl]-4-(1H-imidazol-1-yl)-benzamide hemihydrate | O.C1(=CC=CC=C1)CN(CCNC(C1=CC=C(C=C1)N1C=NC=C1)=O)CC1=CC=CC=C1.C1(=CC=CC=C1)CN(CC1=CC=CC=C1)CCNC(C1=CC=C(C=C1)N1C=NC=C1)=O | InChI=1S/2C26H26N4O.H2O/c2*31-26(24-11-13-25(14-12-24)30-18-15-27-21-30)28-16-17-29(19-22-7-3-1-4-8-22)20-23-9-5-2-6-10-23;/h2*1-15,18,21H,16-17,19-20H2,(H,28,31);1H2
